spice
* NMOS Transistors
M1 2 Vin1 1 1 NMOS_MODEL
M2 3 Vin2 1 1 NMOS_MODEL

* PMOS Transistors
M3 X 2 44 44 PMOS_MODEL
M4 Vout 3 44 44 PMOS_MODEL

* Current Source
Iss 1 0 DC 0.5mA

* Voltage Source
VDD 44 0 DC 1.8V

* Models (example)
.model NMOS_MODEL NMOS
.model PMOS_MODEL PMOS

.end